US05981541
1-(2'-Nitro-4',5'-dimethoxybenzylidene)-5,6-methylenedioxy-2-tetralone (12e).
Prepared from 5,6-methylendioxy-2-tetralone and 2-nitro-4,5-dimethoxybenzaldehyde; mp 66-68° C.: IR (Nujol): 1710, 1553; 1H NMR: δ2.98 (2H, t), 3.19 (2H, t), 4.02 (3H, s), 4.03 (3H, s), 6.03 (2H, s), 6.82 (1H, d, J=8.1), 7.07 (1H, s), 7.29 (1H, d, J=8.1), 7.49 (1H, s), 8.20 (1H, s); 13C NMR: δ21.8, 30.8, 56.5, 56.7, 101.8, 105.7, 107.6, 117.9, 119.1, 123.9, 125.9, 126.9, 128.7, 143.4, 145.4, 147.7, 150.1, 152.9, 156.1, 176.4; Anal. (C20H17NO7) C, H, N.

reactant | 5,6-methylendioxy-2-tetralone | C1OC2=C3CCC(CC3=CC=C2O1)=O | C11H10O3
reactant | 2-nitro-4,5-dimethoxybenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=C(C(=C1)OC)OC | C9H9NO5
product | 1-(2'-Nitro-4',5'-dimethoxybenzylidene)-5,6-methylenedioxy-2-tetralone | [N+](=O)([O-])C1=C(C=C2C(CCC3=C4C(=CC=C23)OCO4)=O)C=C(C(=C1)OC)OC | C20H17NO7
